2152-10-27 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Transferred from [**Hospital1 403**]
   - Stable overnight
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 1876**]s
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-26**] 11:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-10-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2152-10-27**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2152-10-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 75 (64 - 91) bpm
   BP: 136/74(88) {119/60(73) - 176/97(116)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    105 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                    105 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    460 mL
   Urine:
                                                                    245 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/43/138/23/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese, Well healed, umbilical laparoscopy scar
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   11.5 g/dL
   90 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
   WBC
   9.3
   9.1
   Hct
   38.1
   35.2
   Plt
   289
   293
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   82
   90
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:78.3 %, Lymph:12.5 %, Mono:6.2 %,
   Eos:2.7 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assesment: This is a 39 year-old female with a history of PIH, 3 weeks
   postpartum presents from [**Hospital1 403**] with seizures, RUL infiltrate, and
   respiratory distress.
   .
   Plan:
   1) Respiratory Distress/RUL Infiltrate:
   This likely represents an aspiration pneumonia secondary to seizure and
   intubation at the OSH. Sputum grew MSSA. Initially treated with
   clindamycin and ceftriaxone, overall 3 days. Now on levofloxacin.
   Secretions are inhibiting the ability to wean off the ventilator.
   -Continue levofloxacin
   -Vent precautions
   -Plan to attempt extubation today
   2) Hypertension/Eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90.
   - Will manage the blood pressure with labetalol 600mg TID and
   nifedipine 20mg TID.
   3) PRES:
   Brain MRI at [**Hospital1 403**] revealed Posterior Reversible Encephalopathy Syndrome,
   which is associated with eclampsia, particularly after delivery.
   - Will consult neurology for additional recommendations and to provide
   patient will follow up contact.
   - Will continue to treat hypertension.
   4) Urinary Tract Infection:
   Urine culture at [**Hospital1 403**] grew Klebsiella. This is covered by levofloxacin;
   will treat for total of 7 days. Will check a U/A.
   5) FEN:
   Patient has OG tube in place. She received tube feeds at [**Hospital1 403**]. Will hold
   tube feeds with plan of extubating tomorrow. Euvolemic. Does not need
   additional fluids. Replete lytes prn.
   6) Access:
   Currently 3 peripheral IVs in place: 2 LUE, 1 RUE.
   7) PPx:
   DVT - Heparin
   Ulcer - Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care
   Nutrition:
   Comments: Will consider Nutren tube feeds if not extubated today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-26**] 06:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2152-10-27 10:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Transferred from [**Hospital1 403**]
   - Stable overnight
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 1876**]s
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-26**] 11:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-10-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2152-10-27**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2152-10-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 75 (64 - 91) bpm
   BP: 136/74(88) {119/60(73) - 176/97(116)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    105 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                    105 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    460 mL
   Urine:
                                                                    245 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/43/138/23/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese, Well healed, umbilical laparoscopy scar
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   11.5 g/dL
   90 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
   WBC
   9.3
   9.1
   Hct
   38.1
   35.2
   Plt
   289
   293
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   82
   90
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:78.3 %, Lymph:12.5 %, Mono:6.2 %,
   Eos:2.7 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Radiology:
   CXR from [**2152-10-27**]: Official read pending.
   Reviewed by [**Hospital Unit Name 1**] team
 resolving pneumonia. Apparent cardiomegaly.
   Assessment and Plan
   Assesment: This is a 39 year-old female with a history of PIH, 3 weeks
   postpartum presents from [**Hospital1 403**] with seizures, RUL infiltrate, and
   respiratory distress.
   .
   Plan:
   1) Respiratory Distress/RUL Infiltrate:
   This likely represents an aspiration pneumonia secondary to seizure and
   intubation at the OSH. Sputum grew MSSA. Initially treated with
   clindamycin and ceftriaxone, overall 3 days. Now on levofloxacin.
   Secretions are inhibiting the ability to wean off the ventilator.
   -Continue levofloxacin
   -Vent precautions
   -Plan to attempt extubation today
   -Secondary to cardiomegaly on CXR today, will get echocardiogram to
   assess cardiac function
   2) Hypertension/Eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90.
   - Will manage the blood pressure with labetalol 600mg TID and
   nifedipine 20mg TID.
   3) PRES:
   Brain MRI at [**Hospital1 403**] revealed Posterior Reversible Encephalopathy Syndrome,
   which is associated with eclampsia, particularly after delivery.
   - Will consult neurology for additional recommendations and to provide
   patient will follow up contact.
   - Will continue to treat hypertension.
   4) Urinary Tract Infection:
   Urine culture at [**Hospital1 403**] grew Klebsiella. This is covered by levofloxacin;
   will treat for total of 7 days. Will check a U/A.
   5) FEN:
   Patient has OG tube in place. She received tube feeds at [**Hospital1 403**]. Will hold
   tube feeds with plan of extubating tomorrow. Euvolemic. Does not need
   additional fluids. Replete lytes prn.
   6) Access:
   Currently 3 peripheral IVs in place: 2 LUE, 1 RUE.
   7) PPx:
   DVT - Heparin
   Ulcer - Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care
   Nutrition:
   Comments: Will consider Nutren tube feeds if not extubated today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-26**] 06:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   11:40

2152-10-28 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient failed extubation.  Became stridorous, received heliox and
   racemic epinephrine. Found to have erythematous vocal cords and was
   reintubated.
   - MRI/MRA/MRV: wet read negative.
 TRANSTHORACIC ECHO - At [**2152-10-27**] 02:10 PM
        LVEF>55%, trivial pericardial effusion
 MAGNETIC RESONANCE IMAGING - At [**2152-10-27**] 10:07 PM
   Head MRI
   Concern regarding decreased vision on right side this morning. Patient
   evaluated and noted to have mildly decreased strength of left upper and
   lower extremities, double vision. Neuro involved. Awaiting MRI final
   results.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-26**] 11:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2152-10-27**] 02:10 PM
   Famotidine (Pepcid) - [**2152-10-27**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2152-10-28**] 01:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain.  C/o of blurry vision as above.
   Flowsheet Data as of  [**2152-10-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 60 (52 - 100) bpm
   BP: 146/81(97) {101/48(61) - 176/95(116)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,317 mL
                                                                    409 mL
   PO:
             TF:
   IVF:
                                                                    767 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    560 mL
   Urine:
                                                                  1,515 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 517 (403 - 573) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9.3 L/min
   Physical Examination
   CV
 RRR, normal S1/S2
   Pulm
 Coarse throughout, likely [**2-26**] upper airway noise
   Abd
 Hypoactive bowel sounds, soft, nontender, not distended
   Extremities - No lower extremity edema, radial and DP pulses 2+
   Neuro
 CNII-[**Doctor First Name **] grossly intact (unable to assess XII given ETT); [**4-29**]
   strength with flexion/extension on R, [**5-29**] on L; deltoid strength 5/5
   bilaterally; 4/5 strength right lower extremities, [**5-29**] on left
   Labs / Radiology
   102 K/uL
   12.1 g/dL
   97 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   35.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
                             [**2152-10-28**]  03:16 AM
   WBC
   9.3
   9.1
   8.8
   Hct
   38.1
   35.2
   35.3
   Plt
   [**Telephone/Fax (3) 2355**]
   Cr
   0.7
   0.7
   0.7
   TCO2
   28
   Glucose
   82
   90
   97
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:78.3 %, Lymph:12.5 %, Mono:6.2 %,
   Eos:2.7 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   39 year-old female with a history of PIH, 3 weeks postpartum presents
   from [**Hospital1 403**] with seizures, RUL infiltrate, and respiratory distress.
   1) Respiratory Distress/RUL Infiltrate:
   No clear infiltrate on radiograph this morning. Extubation attempted
   yesterday, although re-intubated likely secondary to upper airway
   swelling. Initial distress may have been due to aspiration pneumonia
   secondary to seizure and intubation at the OSH. Sputum grew MSSA.
   Initially treated with clindamycin and ceftriaxone, overall 3 days. Now
   on levofloxacin. Secretions are inhibiting the ability to wean off the
   ventilator.
   - Continue levofloxacin given considerable improvement on antibiotics
   - Vent precautions
   - Hold off on extubation for 1-2 days to allow laryngeal swelling to
   reduce; prior to next extubation attempt may need to pretreat with
   steroids
   2) Hypertension/Eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90.
   - Will manage the blood pressure with labetalol 600mg TID and
   nifedipine 20mg TID.
   - Ob/gyn recs
   3) Double vision, decreased R-sided strength - Brain MRI at [**Hospital1 403**]
   revealed Posterior Reversible Encephalopathy Syndrome, which is
   associated with eclampsia, particularly after delivery. Repeat MRI here
   with results pending. PRES vs. CVA vs ?. Neurology involved
   - Continue close monitoring of neurologic status
   - Neurology recs
   - Will continue to treat hypertension.
   4) Urinary Tract Infection: UA clean, though urine culture at [**Hospital1 403**] grew
   Klebsiella. This is covered by levofloxacin; will treat for total of 7
   days.
   - Continue levofloxacin
   5) FEN:
   Patient has OG tube in place. She received tube feeds at [**Hospital1 403**]. Will hold
   tube feeds with plan of extubating tomorrow. Euvolemic. Does not need
   additional fluids. Replete lytes prn.
   - Restart tubefeeds as she will not be extubated for 1-2 days.
   6) ACCESS:
   Currently 3 peripheral IVs in place: 2 LUE, 1 RUE
   7) PPx:
   DVT - Heparin
   Ulcer - Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-27**] 12:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-10-29 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI/MRA/MRV: Subtle T2 signal abnormalities in the left parietal and
   both occipital subcortical white matter could be due to early changes
   of reversible encephalopathy or due to resolving encephalopathy.
   Clinical correlation with history is recommended. If there are prior
   films, prior examinations, comparison would be helpful. Extensive soft
   tissue changes in the sphenoid sinus. No acute infarcts or mass effect.
        No significant abnormalities on MRA of the head.
        Normal MRV of the head. No evidence of sinus thrombosis.
   - Neuro: Deficits on exam are functional. Findings on MRI are not
   consistent with deficits.
   - Levofloxacin started [**10-24**] at [**Hospital1 403**]
   - Tubefeeding order placed per nutrition recs
   - Added hydralazine IV prn for systolic BP>160
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-26**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-10-28**] 06:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, discomfort. Feels warm. C/o persistently blurry vision.
   Denies focal weakness.
   Flowsheet Data as of  [**2152-10-29**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 76 (55 - 89) bpm
   BP: 134/77(90) {108/46(61) - 167/88(108)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,503 mL
                                                                    319 mL
   PO:
             TF:
             81 mL
   IVF:
                                                                  1,143 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    280 mL
   Urine:
                                                                  1,435 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     68 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 473 (432 - 682) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 10 L/min
   Physical Examination
   General
 Alert, responsive
   CV
 RRR, normal S1/S2, no murmurs
   Pulm
 Coarse breath sounds throughout; no wheezes, rales
   Abdomen
 Decreased bowel sounds, soft, nontender
   Extremities
 No lower extremity edema; radial and DP pulses 2+
   Labs / Radiology
   264 K/uL
   13.0 g/dL
   88 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   16 mg/dL
   110 mEq/L
   141 mEq/L
   37.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
                             [**2152-10-28**]  03:16 AM
                             [**2152-10-28**]  06:00 PM
                             [**2152-10-29**]  04:36 AM
   WBC
   9.3
   9.1
   8.8
   7.4
   Hct
   38.1
   35.2
   35.3
   37.6
   Plt
   [**Telephone/Fax (3) 2382**]64
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   28
   Glucose
   82
   90
   97
   127
   88
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:78.3 %, Lymph:12.5 %, Mono:6.2 %,
   Eos:2.7 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   39 year-old female with a history of PIH, 3 weeks postpartum presents
   from [**Hospital1 403**] with seizures, RUL infiltrate, and respiratory distress.
    1) Respiratory Distress/RUL Infiltrate:
   No clear infiltrate on chest radiograph for past few days. Extubation
   attempted [**2152-10-29**], although re-intubated likely secondary to upper
   airway swelling. Initial distress may have been due to aspiration
   pneumonia secondary to seizure and intubation at the OSH. Sputum grew
   MSSA. Initially treated with clindamycin and ceftriaxone, overall 3
   days. Now on levofloxacin, started [**10-24**] at [**Hospital1 403**].
   - D/c levofloxacin given 7 days of therapy at 750mg PO daily
   - Vent precautions
   - Hold off on extubation for additional 1-2 days to allow laryngeal
   swelling to reduce
   2) Hypertension/eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90.
   - Will manage the blood pressure with labetalol 600mg TID and
   nifedipine 20mg TID.
   - Added hydralazine 10mg IV prn systolic BP>160
 given one dose this
   morning
   - Ob/gyn recs
   3) Posterior Reversible Encephalopathy Syndrome - Associated with
   eclampsia, particularly after delivery. White matter changes reported
   in MRI on [**10-3**] be PRES manifestation.
   - Continue close monitoring of neurologic status
   - Neurology recs
   - Will continue to treat hypertension.
   4) Urinary Tract Infection: UA clean, though urine culture at [**Hospital1 403**] grew
   Klebsiella. This is covered by levofloxacin; will treat for total of 7
   days. Levofloxacin course completed.
   5) FEN:
   Patient has OG tube in place
 TF restarted. Replete lytes prn.
   6) ACCESS:
   2 peripheral IVs in place
   7) PPx:
   DVT
 Heparin
   Ulcer
 Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care (As above)
   Nutrition:
   Replete with Fiber (Full) - [**2152-10-29**] 12:12 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-27**] 12:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-10-30 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no events
   - Increased labetolol to 700mg TID for elevated BP >160.  BP under
   better control.
   - d/c'd levaquin
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-28**] 10:25 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-10-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2152-10-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complaining of dysuria, left arm discomfort secondary to blood pressure
   cuff. Denies weakness, numbness, double vision.
   Flowsheet Data as of  [**2152-10-30**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 62 (53 - 90) bpm
   BP: 123/55(71) {108/49(63) - 167/97(102)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,096 mL
                                                                    308 mL
   PO:
             TF:
                                                                    723 mL
                                                                    247 mL
   IVF:
                                                                    733 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    250 mL
   Urine:
                                                                  1,285 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (405 - 433) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.1 L/min
   Physical Examination
   General: Alert, interactive
   CV: RRR, normal S1/S2, i/VI systolic murmur best heard at LUSB,
   nonradiating
   Pulm: Clear to ausculation bilaterally, no wheezes, rales, or rhonchi
   Abd: Soft, nontender, not distended; normoactive bowel sounds
   Ext: No lower extremity edema; L arm nonerythematous, no focal
   tenderness, and with normal range of motion
   Labs / Radiology
   293 K/uL
   11.7 g/dL
   109 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   33.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
                             [**2152-10-28**]  03:16 AM
                             [**2152-10-28**]  06:00 PM
                             [**2152-10-29**]  04:36 AM
                             [**2152-10-30**]  02:45 AM
   WBC
   9.3
   9.1
   8.8
   7.4
   7.2
   Hct
   38.1
   35.2
   35.3
   37.6
   33.8
   Plt
   [**Telephone/Fax (3) 2382**]64
   293
   Cr
   0.7
   0.7
   0.7
   0.6
   0.8
   TCO2
   28
   Glucose
   82
   90
   97
   127
   88
   109
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:70.0 %, Lymph:20.3 %, Mono:4.9 %,
   Eos:4.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   39 year-old female with a history of PIH, 3 weeks postpartum presents
   from [**Hospital1 403**] with seizures, RUL infiltrate, and respiratory distress.
    1) Respiratory Distress:
   No clear infiltrate on chest radiograph for past few days. Extubation
   attempted [**2152-10-29**], although re-intubated likely secondary to upper
   airway swelling. Initial distress may have been due to aspiration
   pneumonia secondary to seizure and intubation at the OSH. Sputum grew
   MSSA. Initially treated with clindamycin and ceftriaxone, overall 3
   days. Completed 5 day course of levofloxacin 750mg PO daily on [**2152-10-29**].
   Given no indication of active infection at this time (afebrile, normal
   WBC count, no infiltrate on radiograph), will not given any antibiotics
   at this time.
   - Vent precautions
   - Hold off on extubation for additional 1 day to allow laryngeal
   swelling to reduce, increase likelihood of successful extubation
   2) Hypertension/eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90. On [**2152-10-29**] labetalol
   dose increased for systolic BP>160.
   - Continue labetalol 700mg TID
   - Continue nifedipine 20mg TID
   - Hydralazine 10mg IV prn systolic BP>160
   - Ob/gyn recs
   3) Posterior Reversible Encephalopathy Syndrome - Associated with
   eclampsia, particularly after delivery. White matter changes reported
   in MRI on [**2152-10-27**] be PRES manifestation.
   - Continue close monitoring of neurologic status
   - Neurology recs
 when repeat MRI?
   - Continue to treat hypertension
   4) Dysuria
 [**10-27**] urine culture with no growth. Patient recently
   treated for UTI (Klebsiella) diagnosed at [**Hospital1 403**].
   - Urine culture, UA
   5) FEN:
   Patient has OG tube in place
 TF restarted [**2152-10-29**]. Replete lytes prn.
   6) ACCESS:
   2 peripheral IVs in place
   7) PPx:
   DVT
 Heparin SC TID
   Ulcer
 Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-29**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition: ICU

2152-10-31 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Plan to take look tomorrow after rounds to assess airway swelling
   prior to extubation
   - Neuro recs: If pt seizes, load with keppra, ativan
   - Tube feeds stopped at midnight in anticipation of extubation
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2152-10-28**] 10:25 PM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2152-10-30**] 04:00 PM
   Midazolam (Versed) - [**2152-10-30**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   C/o mild RUQ pain (resolved when seen on rounds); denies nausea, chest
   pain, dysuria, focal weakness/numbness
   Flowsheet Data as of  [**2152-10-31**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 70 (53 - 86) bpm
   BP: 145/77(92) {105/47(61) - 163/89(102)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,374 mL
                                                                    274 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                     20 mL
   IVF:
                                                                    614 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    430 mL
   Urine:
                                                                  1,175 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
   (since admit: +1,607 mL)
                                                                  1,199 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (306 - 549) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.7 L/min
   Physical Examination
   General: Alert, interactive
   CV: RRR, normal S1/S2, i/VI systolic murmur best heard at LUSB,
   nonradiating
   Pulm: Clear to ausculation bilaterally, no wheezes, rales, or rhonchi
   Abd: Soft, not distended; normoactive bowel sounds; mildly tender to
   palpation at RUQ; negative [**Doctor Last Name 916**]
s sign
   Ext: No lower extremity edema; radial and DP pulses 2+
   Labs / Radiology
   271 K/uL
   11.9 g/dL
   95 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   105 mEq/L
   141 mEq/L
   34.7 %
   8.8 K/uL
        [image002.jpg]
   UA:
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
                             [**2152-10-28**]  03:16 AM
                             [**2152-10-28**]  06:00 PM
                             [**2152-10-29**]  04:36 AM
                             [**2152-10-30**]  02:45 AM
                             [**2152-10-30**]  06:46 PM
                             [**2152-10-31**]  04:24 AM
   WBC
   9.3
   9.1
   8.8
   7.4
   7.2
   8.8
   Hct
   38.1
   35.2
   35.3
   37.6
   33.8
   33.1
   34.7
   Plt
   [**Telephone/Fax (2) 2446**]
   Cr
   0.7
   0.7
   0.7
   0.6
   0.8
   0.7
   TCO2
   28
   Glucose
   82
   90
   97
   127
   88
   109
   95
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:70.0 %, Lymph:20.3 %, Mono:4.9 %,
   Eos:4.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   39 year-old female with a history of PIH, 3 weeks postpartum presents
   from [**Hospital1 403**] with seizures, RUL infiltrate, and respiratory distress.
    1) Respiratory Distress:
   No clear infiltrate on chest radiograph for past few days. Extubation
   attempted [**2152-10-29**], although re-intubated likely secondary to upper
   airway swelling. Initial distress may have been due to aspiration
   pneumonia secondary to seizure and intubation at the OSH. Sputum grew
   MSSA. Initially treated with clindamycin and ceftriaxone, overall 3
   days. Completed 5 day course of levofloxacin 750mg PO daily on [**2152-10-29**].
   Given no indication of active infection at this time (afebrile, normal
   WBC count, no infiltrate on radiograph), will not given any antibiotics
   at this time.
   - Vent precautions
   - Bronchoscopy this morning to evaluate trachea; if no swelling, will
   plan to extubate today
   2) Hypertension/eclampsia:
   Patient has past history of a pregnancy complicated by hypertension.
   The most recent pregnancy was induced for fetal distress. Two weeks
   postpartum patient had tonic clonic seizures, likely related to her
   pregnancy. Discussed with Ob/Gyn. BP goal <160/90. On [**2152-10-29**] labetalol
   dose increased for systolic BP>160.
   - Continue labetalol 700mg TID
   - Continue nifedipine 20mg TID
   - Hydralazine 10mg IV prn systolic BP>160
   - Ob/gyn recs
   3) Posterior Reversible Encephalopathy Syndrome - Associated with
   eclampsia, particularly after delivery. White matter changes reported
   in MRI on [**2152-10-27**] be PRES manifestation.
   - Continue close monitoring of neurologic status
   - Neurology recs
 when repeat MRI?
   - Continue to treat hypertension
   4) Dysuria
 Now resolved. UA without indication of active infection.
   [**10-27**] urine culture with no growth. Patient recently treated for UTI
   (Klebsiella) diagnosed at [**Hospital1 403**].
   - Urine culture
 final read pending
   5) FEN:
   Patient has OG tube in place
 TF restarted [**2152-10-29**]. Replete lytes prn.
   6) ACCESS:
   2 peripheral IVs in place
   7) PPx:
   DVT
 Heparin SC TID
   Ulcer
 Famotidine
   8) Code:  Full Code
   9) Dispo:  ICU until extubated and stable
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-29**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   She is breathing comfortably on PSV 5/5.  We are planning to extubate
   may need mask vent after extubation for a period. Bronch done showing
   no laryngeal erythema/edema but a narrow airway. Low grade fever
   evidence of pneumonia.
   Time spent 45 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2152-10-31**] 16:03 ------

2152-11-01 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2152-10-31**] 01:15 PM
   - Extubated without problem
   - Neuro recs - Goal BP 120/80. If seizes, Keppra load + lorazepam.
   - EEG ([**2152-10-28**]) - This is a normal routine EEG mostly in the drowsy
   state. There were no lateralized or epileptiform features seen.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-10-31**] 08:30 AM
   Hydralazine - [**2152-10-31**] 05:07 PM
   Heparin Sodium (Prophylaxis) - [**2152-11-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
Flapping
 sensation in throat with inspiration; anxious to start
   eating solid foods
   Flowsheet Data as of  [**2152-11-1**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 91 (59 - 96) bpm
   BP: 141/66(81) {112/57(71) - 186/98(114)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    673 mL
                                                                    200 mL
   PO:
                                                                     75 mL
                                                                    200 mL
   TF:
                                                                     20 mL
   IVF:
                                                                    413 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    580 mL
   Urine:
                                                                  1,640 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -967 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 281 (281 - 281) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 5.7 L/min
   Physical Examination
   Gen: Sitting comfortably in bed
   CV: RRR, normal S1/S2, no murmurs appreciated
   Pulm: Nonlabored work of breathing; coarse, turbulent breath sounds at
   upper airways; inspiratory wheezes on posterior auscultation
   Abd: Soft, nontender, not distended; normoactive bowel sounds.
   Labs / Radiology
   278 K/uL
   12.6 g/dL
   96 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   10 mg/dL
   103 mEq/L
   141 mEq/L
   37.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2152-10-26**]  09:59 PM
                             [**2152-10-26**]  10:08 PM
                             [**2152-10-27**]  05:14 AM
                             [**2152-10-28**]  03:16 AM
                             [**2152-10-28**]  06:00 PM
                             [**2152-10-29**]  04:36 AM
                             [**2152-10-30**]  02:45 AM
                             [**2152-10-30**]  06:46 PM
                             [**2152-10-31**]  04:24 AM
                             [**2152-11-1**]  03:40 AM
   WBC
   9.3
   9.1
   8.8
   7.4
   7.2
   8.8
   8.1
   Hct
   38.1
   35.2
   35.3
   37.6
   33.8
   33.1
   34.7
   37.1
   Plt
   [**Telephone/Fax (2) 2446**]
   278
   Cr
   0.7
   0.7
   0.7
   0.6
   0.8
   0.7
   0.6
   TCO2
   28
   Glucose
   82
   90
   97
   127
   88
   109
   95
   96
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:34/42, Alk Phos / T
   Bili:132/0.4, Differential-Neuts:70.0 %, Lymph:20.3 %, Mono:4.9 %,
   Eos:4.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.7 g/dL, LDH:247 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   39 year-old female with a history of PIH, 3 weeks postpartum presents
   from [**Hospital1 403**] with seizures, RUL infiltrate, and respiratory distress.
   1) Respiratory Distress, now resolved: Successful extubation on
   [**2152-10-29**]. Required racemic epi once overnight for stridor; symptoms
   resolved.
   During hospital course, completed antibiotic course for suspected
   aspiration pneumonia secondary to seizure/intubation and MSSA which
   grew out of sputum culture.
   2) Low grade temperature. Temperature of 100.2 overnight. No indication
   of active infection. Remove Foley today and send UA, urine culture.
   3) Hypertension/eclampsia:
   No focus for seizures seen on EEG. Patient has past history of a
   pregnancy complicated by hypertension. The most recent pregnancy was
   induced for fetal distress. Two weeks postpartum patient had tonic
   clonic seizures, likely related to her pregnancy. Discussed with
   Ob/Gyn. BP goal <160/90. On [**2152-10-29**] labetalol dose increased for
   systolic BP>160.
   - Continue labetalol 700mg TID
   - Continue nifedipine 20mg TID
   - Hydralazine 10mg IV prn systolic BP>160
   - Neuro recs - Keppra loading dose for seizure + Ativan
   - Ob/gyn recs
   4) Posterior Reversible Encephalopathy Syndrome - Associated with
   eclampsia, particularly after delivery. White matter changes reported
   in MRI on [**10-3**] be PRES manifestation.
   - Continue close monitoring of neurologic status
   - Neurology recs
 when repeat MRI?
   - Continue to treat hypertension
   5) FEN - Clears; will advance diet as tolerated; replete lytes prn
   6) ACCESS:
   2 peripheral IVs in place
   7) PPx:
   DVT
 Heparin SC TID
   Ulcer
 Famotidine
   8) Code: Full Code
   9) Dispo: Call out to medicine floor today.
   - SW consult; consider PT consult
   10) Comm:
   [**Name (NI) 2308**] [**Name (NI) 2309**] (Sister): [**Telephone/Fax (1) 2310**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2154**] (Significant Other): [**Telephone/Fax (1) 2311**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-10-29**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with A&P as per Dr.
   [**Last Name (STitle) **].  She is continuing to recover but is very weak.
   Time spent: 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2152-11-1**] 18:29 ------